US08247576B2
62B. 4-[4-(3-Imidazol-1-yl-1-phenoxy-propyl)-phenyl]-1H-pyrazole
1-[3-(4-Bromo-phenyl)-3-phenoxy-propyl]-1H-imidazole was reacted with 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole following the procedure set out in Example 1 to give the title compound. LC/MS: (PS-A2) Rt 2.05 [M+H]+ 345.30. 1H NMR (Me-d3-OD) δ 2.30-2.55 (2H, m), 4.25-4.45 (2H, m), 5.10-5.15 (1H, m), 6.80-6.90 (3H, m), 7.10 (1H, s), 7.15-7.20 (2H, t), 7.25 (1H, s), 7.35-7.40 (2H, d), 7.55-7.60 (2H, d), 7.85 (1H, s), 7.95 (2H, s).

reactant | 1-[3-(4-Bromo-phenyl)-3-phenoxy-propyl]-1H-imidazole | BrC1=CC=C(C=C1)C(CCN1C=NC=C1)OC1=CC=CC=C1 | C18H17BrN2O
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | CC1(OB(OC1(C)C)C=1C=NNC1)C | C9H15BN2O2
product | 4-[4-(3-Imidazol-1-yl-1-phenoxy-propyl)-phenyl]-1H-pyrazole | N1(C=NC=C1)CCC(OC1=CC=CC=C1)C1=CC=C(C=C1)C=1C=NNC1 | C21H20N4O
